Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
suprapubic pain
 
Major Surgical or Invasive Procedure:
Incision and Drainage of suprapubic abscess

 
History of Present Illness:
___ male with hypertension, hyperlipidemia, and obesity 
who presents today to the ED with suprapubic pain. He reports 
having tenderness to the suprapubic area for about 4 days. He 
does not remember trauma to that area. Due to his habitus, he 
has not investigated the site himself. Denies fevers or chills. 
No change in bowel or bladder habits, no testicular penile pain. 
Review of systems is otherwise negative. He is noted to have an 
area of erythema with black necrotic eschar and focal 
tenderness. 

 
Past Medical History:
HTN, HLD, morbid obesity, anxiety
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Physical Exam on admission ___:  
 Vitals: 98.4 98 122/75 18 100% RA  
 GEN: A&O, NAD  
 HEENT: No scleral icterus, mucus membranes moist  
 CV: RRR, No M/G/R  
 PULM: Clear to auscultation b/l, No W/R/R  
 ABD: Soft, nondistended, Tender to palpation beneath abdominal  

 pannus along the suprapubic area. About 10cm x 8cm area of  
 erythema and induration/fluctuance. No crepitus. No rebound or  

 guarding, normoactive bowel sounds, no palpable masses  
 DRE: normal tone, no gross or occult blood  
 Ext: No ___ edema, ___ warm and well perfused  

Physical Exam on discharge ___:
 Vitals:  T 98.8 BP 166 / 94HR 92 RR 18SO@ 97RA
 GEN: A&O, NAD  
 HEENT: No scleral icterus, mucus membranes moist  
 CV: RRR, No M/G/R  
 PULM: Clear to auscultation b/l, No W/R/R  
 ABD: Bowel sounds present. Soft, non-distended, non-tender. 
Suprapubic I/D wound clean without drainage or surrounding 
erythema. 
 Ext: No ___ edema, ___ warm and well perfused. 
 
Pertinent Results:
Admission Labs:
============
___ 03:40PM BLOOD WBC-9.9 RBC-5.50 Hgb-14.4 Hct-43.5 
MCV-79* MCH-26.2 MCHC-33.1 RDW-14.1 RDWSD-39.7 Plt ___
___ 03:40PM BLOOD Neuts-70.1 ___ Monos-8.4 Eos-0.7* 
Baso-0.3 Im ___ AbsNeut-6.95* AbsLymp-1.99 AbsMono-0.83* 
AbsEos-0.07 AbsBaso-0.03
___ 03:40PM BLOOD ___ PTT-34.4 ___
___ 03:40PM BLOOD Glucose-132* UreaN-13 Creat-0.9 Na-138 
K-3.9 Cl-99 HCO3-22 AnGap-17
___ 03:55PM BLOOD Lactate-1.5

Discharge Labs:
============
___ 03:52AM BLOOD WBC-9.7 RBC-5.42 Hgb-14.3 Hct-44.3 MCV-82 
MCH-26.4 MCHC-32.3 RDW-14.4 RDWSD-41.8 Plt ___
___ 03:52AM BLOOD Glucose-161* UreaN-12 Creat-0.9 Na-139 
K-4.6 Cl-99 HCO3-27 AnGap-13
___ 03:52AM BLOOD Calcium-9.0 Phos-3.9 Mg-2.___ year old male, pmhx of hypertension, hyperlipidemia, morbid 
obesity, anxiety. He presented to the ED with 4 days of lower 
abdominal pain, which has gotten progressively worse. He is now 
s/p incision and drainage of suprapubic subcutaneous abscess 
under general anesthesia with minimal blood loss. He is 
tolerating a regular diet, voiding with no issues, pain is well 
controlled, ambulating. The surgical incision will be packed 
with gauze, wet to dry dressing.  

The patient was admitted to the General Surgical Service on 
___ for evaluation and treatment 4 days of lower abdominal 
pain, which has gotten progressively worse. The patient 
underwent incision and drainage of suprapubic subcutaneous 
abscess under general anesthesia with minimal blood loss, which 
went well without complication (reader referred to the Operative 
Note for details). After a brief, uneventful stay in the PACU, 
the patient arrived on the floor tolerating a regular diet and 
pain was well controlled. The patient voided without problem. 
During this hospitalization, the patient ambulated early and 
frequently, was adherent with respiratory toilet and incentive 
spirometry, and actively participated in the plan of care. The 
patient received subcutaneous heparin and venodyne boots were 
used during this stay. On POD1 the patient required 1mg IV 
Dilaudid for a packing change, but after the patient's pain was 
able to be controlled with oral pain medications. The patient 
was deemed surgically cleared for discharge home with ___ 
services on POD2. 

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled.  The patient was discharged home without services. 
The patient received discharge teaching and follow-up 
instructions with understanding verbalized and agreement with 
the discharge plan
 
Medications on Admission:
Clonazepam 1mg PO BID
Sertraline 250mg PO daily
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
2.  Docusate Sodium 100 mg PO BID  
3.  Senna 8.6 mg PO BID:PRN constipation 
Hold for loose stool  
4.  ClonazePAM 1 mg PO BID:PRN anxiety  
5.  Sertraline 250 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Suprapubic abscess

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You came to the hospital because of worsening suprapubic pain. 
You had an abscess or collection of fluid at the site. You were 
brought to the operating room to have the abscess drained. This 
was done with no complications. You are ready to go home.

Please follow the discharge instructions below:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water. Gently pat the area dry.

 
Followup Instructions:
___